US04053476
The compounds of the present invention are prepared from a novel process which utilizes dihydroresorcinol as the starting material. Dihydroresorcinol is allowed to react with a chlorinating reagent such as phosphorous trichloride to afford 3-chloro-2-cyclohexen-1-one. Reaction with cyanoacetamide and sodium hydride results in α-cyano-3-oxo-1-cyclohexen-1-acetamide, which is then contacted with a dialkylformamide acetal, for example, dimethylformamide diethylacetal or dimethylformamide dineopentyl acetal, or trialkylorthoformate, for example triethylorthoformate, to produce 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile. Elimination of the cyano group is effected by heating with hydrobromic acid, thus affording 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione. Heating with an alkyl halide produces the corresponding 6-alkoxy-7-aza-1-tetralone together with the N-alkylated derivative. Typically, 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione is heated in benzene at the reflux temperature with methyl iodide and silver carbonate to yield 7-aza-6-methoxy-1-tetralone together with 2-methyl-2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione.

reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide diethylacetal | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | dimethylformamide dineopentyl acetal | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
solvent | α-cyano-3-oxo-1-cyclohexen-1-acetamide | C(#N)C(C(=O)N)C1=CC(CCC1)=O | C9H10N2O2
product | 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile | O=C1NC=C2C(CCCC2=C1C#N)=O | C10H8N2O2
